US09376441B2
To a mixture of 5-chloro-2-iodophenol (1.21 g, 4.76 mmol) and K2CO3 (723 mg, 5.23 mmol) in acetone (20 mL) was added 3-bromo-2-methyl-propene (0.53 ml, 5.23 mmol), and the reaction was heated to reflux for 16 hours. The reaction was cooled, diluted with EtOAc and water, and the layers were separated. The aqueous layer was extracted with EtOAc (2×) and the combined organics were dried over MgSO4, filtered and concentrated to afford 4-chloro-1-iodo-2-((2-methylallyl)oxy)benzene which was used directly in the next step without further purification.

reactant | 5-chloro-2-iodophenol | 4.76 mmol, 1.21 g | ClC=1C=CC(=C(C1)O)I | C6H4ClIO
reactant | K2CO3 | 5.23 mmol, 723 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-2-methyl-propene | 5.23 mmol, 0.53 ml | BrCC(=C)C | C4H7Br
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-chloro-1-iodo-2-((2-methylallyl)oxy)benzene | ClC1=CC(=C(C=C1)I)OCC(=C)C | C10H10ClIO
